US03997574
A mixture of 15 g of 17-ethylenedioxyestra-1,3,5(10) trien-3,11β-diol and 30 g of anhydrous potassium carbonate in 75 ml of methanol and 60 ml of methyl iodide is stirred and heated under reflux for 3 hours. The mixture is then cooled and diluted by the addition of 200 ml of water. The methanol and methyl iodide are removed by distillation under reduced pressure and the aqueous residue is extracted twice with methylene chloride. The combined organic extracts are washed with saturated sodium chloride solution and dried over sodium sulfate. Removal of the solvent gives a residue which is crystallized from ether to yield 17-ethylenedioxy-11β-hydroxy-3-methoxyestra-1,3,5(10)-triene, m.p. 125° - 126° C.

reactant | 17-ethylenedioxyestra-1,3,5(10) trien-3,11β-diol | 15 g | C1OC2[C@]3(C)[C@@H](CC2OC1)[C@@H]1CCC=2C=C(C=CC2[C@H]1[C@H](C3)O)O | C20H26O4
reactant | potassium carbonate | 30 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 200 ml | O | H2O
solvent | methanol | 75 ml | CO | CH4O
solvent | methyl iodide | 60 ml | CI | CH3I
product | 17-ethylenedioxy-11β-hydroxy-3-methoxyestra-1,3,5(10)-triene | C1OC2[C@]3(C)[C@@H](CC2OC1)[C@@H]1CCC=2C=C(C=CC2[C@H]1[C@H](C3)O)OC | C21H28O4
